US09428528B2
To a cooled (0° C.) THF (25 ml) solution of ethyl 5-(4-((4S,5R)-3-(tert-butoxycarbonyl)-4-(fluoromethyl)-2,2-dimethyloxazolidin-5-yl)phenyl)isoxazole-3-carboxylate (1.0 g, 2.2 mmol) is added sodium borohydride (0.25 g, 6.7 mmol) followed by methanol (3 ml added slowly). The reaction is stirred for 30 minutes at 0° C. and for one hour at room temperature. The excess sodium borohydride is quenched by the addition of saturated aqueous ammonium chloride (5 ml). The reaction mixture is diluted with ethyl acetate (50 ml) and water (25 ml). The layers were mixed and allowed to separate. The organic phase is collected, dried over sodium sulfate and concentrated to give the product, (4S,5R)-tert-butyl 4-(fluoromethyl)-5-(4-(3-(hydroxymethyl)isoxazol-5-yl)phenyl)-2,2-dimethyl-oxazolidine-3-carboxylate (875 mg, 96%), as a viscous oil. 1H NMR (400 MHz, CDCl3) 1.52 (s, 9H) 1.59 (s, 3H) 1.74 (br. s., 3H) 2.03-2.08 (m, 1H) 3.83-3.96 (m, 1H) 4.40-4.60 (m, 2H) 4.85 (d, J=6.06 Hz, 2H) 5.19 (d, J=7.58 Hz, 1H) 6.63 (s, 1H) 7.57 (d, J=8.34 Hz, 2H) 7.82 (d, J=8.34 Hz, 2H); m/z (CI) 407 ([M+H]+.

reactant | THF | 25 ml | C1CCOC1 | C4H8O
reactant | ethyl 5-(4-((4S,5R)-3-(tert-butoxycarbonyl)-4-(fluoromethyl)-2,2-dimethyloxazolidin-5-yl)phenyl)isoxazole-3-carboxylate | 2.2 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C1=CC(=NO1)C(=O)OCC)(C)C | C23H29FN2O6
reactant | sodium borohydride | 6.7 mmol, 0.25 g | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | (4S,5R)-tert-butyl 4-(fluoromethyl)-5-(4-(3-(hydroxymethyl)isoxazol-5-yl)phenyl)-2,2-dimethyl-oxazolidine-3-carboxylate | 875 mg, 96% | FC[C@H]1N(C(O[C@@H]1C1=CC=C(C=C1)C1=CC(=NO1)CO)(C)C)C(=O)OC(C)(C)C | C21H27FN2O5
